US07351719B2
Z10) 4-(2-piperidin-1-yl-ethoxy)-phenylamine
15.4 g (111.00 mmol) of potassium carbonate was added to a solution of 4.0 g (27.86 mmol) of 4-amino-2-chlorophenol and 5.1 g (27.86 mmol) of 1-(2-chloro-ethyl)-piperidine in 50 mL acetonitrile and the mixture was stirred for 48 hours at RT. The solvent was evaporated off i. vac., the residue was combined with water and the aqueous phase was exhaustively extracted with EtOAc. The combined org. extracts were washed with water, dried over magnesium sulphate, evaporated down i. vac. and the residue was purified by column chromatography (silica gel, dichloromethane/MeOH/conc. aqueous ammonia 90:10:1).

reactant | potassium carbonate | 111.00 mmol, 15.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-amino-2-chlorophenol | 27.86 mmol, 4.0 g | NC1=CC(=C(C=C1)O)Cl | C6H6ClNO
reactant | 1-(2-chloro-ethyl)-piperidine | 27.86 mmol, 5.1 g | ClCCN1CCCCC1 | C7H14ClN
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | 4-(2-piperidin-1-yl-ethoxy)-phenylamine | N1(CCCCC1)CCOC1=CC=C(C=C1)N | C13H20N2O
